US07816542B2
A mixture of dioxane (16 mL) and N-methylpyrrolidinone (8 mL) is deoxygenated by passing a stream of nitrogen through it for 15 minutes. A sample of 3-chloro-2-fluoroaniline (3 g, 20.6 mmol) is charged to a 250 mL round-bottom flask which is equipped with a screw-top adapter capable of sealing the vessel via a 3 way stopcock. The aniline is then treated with 4-butylphenylboronic acid (5.5 g, 30.9 mmol), cesium fluoride (7.82 g, 51.5 mmol) and bis-(tri-tert-butyl phosphiono) palladium (527 mg, 1.03 mmol). The flask is evacuated, back filled with nitrogen, and sealed. The flask is placed into an oil bath which has been preheated to 130° C. and stirred for 4 hours. After cooling, the reaction is filtered through a pad of celite which is subsequently rinsed with EtOAc. The organics are then removed by rotary evaporation. The crude reaction is diluted with water, and extracted with EtOAc. The phases are separated, and the organics are dried over MgSO4, filtered, and concentrated. The resulting oil is diluted with diethyl ether and treated with an excess of a 4 M solution of HCl in dioxane. The resulting solid is collected, washed with diethyl ether, and dried to give 4′-butyl-2-fluoro-biphenyl-3-ylamine hydrochloride as a white solid: LC/MS calculated for [M+H]+ C16H19FN: 244.3, found: 244.2. A 0° C. mixture of 4′-butyl-2-fluoro-biphenyl-3-ylamine hydrochloride (5.4 g, 0.019 mol) in concentrated aqueous HCl (50 ml) is treated with the drop wise addition of sodium nitrite (1.3 g, 0.019 mol) in H2O (20 ml) over 10 minutes. The resulting solution is stirred at 0° C. for 1 hour and then treated with the drop wise addition of a 0° C. solution of tin (II) chloride (13.0 g, 0.058 mol) in concentrated aqueous HCl (14 ml). This mixture is stirred for 15 min and then filtered. The isolated solid is washed with cold saturated aqueous NaCl and then suspended in 50% NaOH. The resultant slurry is diluted with H2O and extracted with Et2O. The organic phase is dried over MgSO4, filtered, and concentrated. The resulting residue is dissolved in 100 ml of Et2O and cooled to 0° C. 4.0 M HCl in dioxane (15 ml) is added drop wise to this solution and the resulting precipitate collected to yield 4.58 g (81%) of the desired hydrazine hydrochloride. LC/MS calculated for C16H20FN2: 259.3 found: 259.2

reactant | 3-chloro-2-fluoroaniline | 20.6 mmol, 3 g | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4-butylphenylboronic acid | 30.9 mmol, 5.5 g | C(CCC)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | cesium fluoride | 51.5 mmol, 7.82 g | [F-].[Cs+]
solvent | water | O | H2O
catalyst | palladium | 1.03 mmol, 527 mg | [Pd] | Pd
solvent | N-methylpyrrolidinone | 8 mL | CN1C(CCC1)=O | C5H9NO
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
product | 4′-butyl-2-fluoro-biphenyl-3-ylamine hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C1=C(C(=CC=C1)N)F | InChI=1S/C16H18FN.ClH/c1-2-3-5-12-8-10-13(11-9-12)14-6-4-7-15(18)16(14)17;/h4,6-11H,2-3,5,18H2,1H3;1H
